### PR TITLE
[Merged by Bors] - feat: Norm and trace under isomorphisms.

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Norm.lean [hunk 1]
```diff
@@ -331,6 +331,58 @@ theorem isIntegral_norm [Algebra R L] [Algebra R K] [IsScalarTower R K L] [IsSep
...
+    e (Algebra.norm A x) = Algebra.norm B x := by
+  classical
+  by_cases h : ∃ s : Finset C, Nonempty (Basis s B C)
+  · obtain ⟨s, ⟨b⟩⟩ := h
+    letI : Algebra A B := RingHom.toAlgebra e
+    letI : IsScalarTower A B C := IsScalarTower.of_algebraMap_eq' he.symm
+    rw [Algebra.norm_eq_matrix_det b,
+      Algebra.norm_eq_matrix_det (b.mapCoeffs e.symm (by simp [Algebra.smul_def, ← he]))]
+    show e.toRingHom _ = _
+    rw [RingHom.map_det]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Norm.lean:364]:
```suggestion
    rw [e.map_det]
```

File: Mathlib/RingTheory/Trace.lean [hunk 2]
```diff
@@ -328,6 +328,56 @@ theorem Algebra.isIntegral_trace [FiniteDimensional L F] {x : F} (hx : IsIntegra
   · apply IsAlgClosed.splits_codomain
 #align algebra.is_integral_trace Algebra.isIntegral_trace
 
+lemma Algebra.trace_eq_of_algEquiv {A B C : Type*} [CommRing A] [CommRing B] [CommRing C]
+    [Algebra A B] [Algebra A C] (e : B ≃ₐ[A] C) (x) :
+    Algebra.trace A C (e x) = Algebra.trace A B x := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Trace.lean:333]: This could be used to golf [Algebra.discr_eq_discr_of_algEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Discriminant.html#Algebra.discr_eq_discr_of_algEquiv) and remove unnecessary assumptions.

File: Mathlib/LinearAlgebra/Trace.lean [hunk 3]
```diff
@@ -299,8 +299,19 @@ lemma trace_comp_cycle' (f : M →ₗ[R] N) (g : N →ₗ[R] P) (h : P →ₗ[R]
 
 @[simp]
 theorem trace_conj' (f : M →ₗ[R] M) (e : M ≃ₗ[R] N) : trace R N (e.conj f) = trace R M f := by
-  rw [e.conj_apply, trace_comp_comm', ← comp_assoc, LinearEquiv.comp_coe,
-    LinearEquiv.self_trans_symm, LinearEquiv.refl_toLinearMap, id_comp]
+  classical
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Trace.lean:302]: This became longer because the statement is more general?

**Review by riccardobrasca — APPROVED** [review]
There is an unaddressed comment by @alreadydone but otherwise LGTM, thanks!

bors d+

File: Mathlib/LinearAlgebra/Trace.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/LinearAlgebra/Trace.lean:302]: Yes. We removed the finite-free assumption.

**Comment by erdOne** [comment]
I'll golf the lemma in a later PR.
bors merge

File: Mathlib/RingTheory/Trace.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Trace.lean:333]: #9068
